US05468898
N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2(Z)-carboxy-2-methylvinyl)indol-1-yl]acetamide
When N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-carbethoxyvinyl)indol-1-yl]acetamide in the procedure of Example 23 is replaced with N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-(Z)-carbethoxyvinyl)indol-1-yl]acetamide, then the product prepared is N-metyl-N-phenethyl-2-[5-benzyloxy-3-(Z)-2-carboxy-2-methylvinyl)indol-1-yl]acetamide as a white powder. (m.p. 155°-160° C.)

reactant | N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-carbethoxyvinyl)indol-1-yl]acetamide | CN(C(CN1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C=CC(=O)OCC)=O)CCC1=CC=CC=C1 | C31H32N2O4
reactant | N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2-(Z)-carbethoxyvinyl)indol-1-yl]acetamide | CN(C(CN1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)\C=C/C(=O)OCC)=O)CCC1=CC=CC=C1 | C31H32N2O4
reactant | acetamide | C(C)(=O)N | C2H5NO
product | N-methyl-N-phenethyl-2-[5-benzyloxy-3-(2(Z)-carboxy-2-methylvinyl)indol-1-yl]acetamide | CN(C(CN1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)\C=C(\C)/C(=O)O)=O)CCC1=CC=CC=C1 | C30H30N2O4
